US07842701B2
4-chloro-6,7-dimethoxy-2-oxo-1,2-dihydroquinoline-3-carbonitrile
A mixture of 4-chloro-6,7-dimethoxy-1-(4-methoxybenzyl)2-oxo-1,2-dihydroquinoline-3-carbonitrile (300 mg), trifluoroacetic acid (5 ml), anisole (2 ml) and trifluoromethanesulfonic acid (1 ml) was stirred at room temperature for 1 day. After concentoration, the residue was cooled to 0° C. and ethyl acetate was added. The pH was adjusted to about 9 by adding 5% sodium carbonate, and the mixture was extracted with ethyl acetate. The extract was washed with water and brine, dried over anhydrous magnesium sulfate. The concentrated residue was purified with silica gel column chromatography to obtain the target compound (125 mg).

reactant | 4-chloro-6,7-dimethoxy-1-(4-methoxybenzyl)2-oxo-1,2-dihydroquinoline-3-carbonitrile | 300 mg | ClC1=C(C(N(C2=CC(=C(C=C12)OC)OC)CC1=CC=C(C=C1)OC)=O)C#N | C20H17ClN2O4
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoromethanesulfonic acid | 1 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-chloro-6,7-dimethoxy-2-oxo-1,2-dihydroquinoline-3-carbonitrile | 125 mg | ClC1=C(C(NC2=CC(=C(C=C12)OC)OC)=O)C#N | C12H9ClN2O3
